US06781009B2
10 g of methyl 4-bromo-3-oxobutanoate is dissolved in 100 g of methanol. The resultant solution is cooled to 0° C. and a solution of 4 g of sodium cyanide in 100 g of methanol is added thereto. After completion of the addition, the mixture is warmed gradually to room temperature under stirring. Thereafter, the reaction mixture is poured into water, and extracted with ethyl acetate. The organic layer is washed with saturated brine, dried, concentrated to obtain methyl 4-cyano-3-oxobutanoate.

reactant | methyl 4-bromo-3-oxobutanoate | 10 g | BrCC(CC(=O)OC)=O | C5H7BrO3
reactant | sodium cyanide | 4 g | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | methanol | 100 g | CO | CH4O
solvent | methanol | 100 g | CO | CH4O
product | methyl 4-cyano-3-oxobutanoate | C(#N)CC(CC(=O)OC)=O | C6H7NO3
